US04329518
Under a dry argon atmosphere n-butyllithium (1.3 g, 0.020 mole) was added slowly to a stirred ice cold mixture of (methyl)triphenylphosphonium bromide (7.3 g, 0.0203 mole) in 30 ml of tetrahydrofuran. The mixture was warmed to room temperature, stirred for two hours, and 3-chloro-[1,1'-biphenyl]-2-carboxaldehyde (4.4 g, 0.0203 mole) in 30 ml of tetrahydrofuran added. The reaction mixture was stirred at room temperature for approximately 18 hours, heated at reflux for two hours, then cooled. The reaction mixture was diluted with 300 ml of diethyl ether and washed with 100 ml of water. The organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated to give a residue. Distillation of the residue at 88°/0.05 mm gave 3-chloro-2-ethenyl-[1,1'-biphenyl] (2.3 g).

reactant | n-butyllithium | 0.020 mole, 1.3 g | C(CCC)[Li]
reactant | 3-chloro-[1,1'-biphenyl]-2-carboxaldehyde | 0.0203 mole, 4.4 g | ClC1=C(C(=CC=C1)C1=CC=CC=C1)C=O | C13H9ClO
catalyst | (methyl)triphenylphosphonium bromide | 0.0203 mole, 7.3 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 3-chloro-2-ethenyl-[1,1'-biphenyl] | 2.3 g | ClC=1C(=C(C=CC1)C1=CC=CC=C1)C=C | C14H11Cl
